US05691330
The reaction and procedure were conducted in a similar manner as in Example 24 using 1.5 g of 3,6-diacetyl-2-(2-chloroethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine and 1.3 g of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride to give 3,6-diacetyl-2-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine as an oil.

reactant | 3,6-diacetyl-2-(2-chloroethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 1.5 g | C(C)(=O)C1=C(SC=2CN(CCC21)C(C)=O)CCCl | C13H16ClNO2S
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride | 1.3 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
product | 2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=CC3=C(CNCC3)S2)C=C1 | C21H24FN3OS
